US04921852
To a solution of (2S,4R)-2-(2-formylthiazol-4-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.26 g) in a mixture of methanol (30 ml) and tetrahydrofuran (30 ml) was added sodium borohydride (94 mg) at 0° C. After stirring at 0° C. for 30 minutes, acetic acid (0.6 ml) was added to the solution. After the mixture was evaporated, the residue was dissolved in ethyl acetate, washed with water, saturated sodium bicarbonate and brine successively. The dried organic layer was evaporated to give (2S,4R)-2-[2-(hydroxymethyl)thiazol-4-yl]-4-(methanesulfonyloxy)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.09 g)

reactant | (2S,4R)-2-(2-formylthiazol-4-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.26 g | C(=O)C=1SC=C(N1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H17N3O8S2
reactant | sodium borohydride | 94 mg | [BH4-].[Na+]
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2S,4R)-2-[2-(hydroxymethyl)thiazol-4-yl]-4-(methanesulfonyloxy)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.09 g | OCC=1SC=C(N1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H19N3O8S2
